US04175193
2-Amino-6-chloro-4-hydroxyquinoline
Following the procedure of Example 2, 5-chloroisatoic anhydride (19.8 g., 0.1 mole), malononitrile (7.3 g., 0.11 mole) and triethylamine (11.1 g., 0.11 mole) are reacted together in N,N-dimethylformamide (200 ml.) to give 20 g. of product. Five grams of said product are refluxed for 22 hours in 48% hydrobromic acid (175 ml.) to give 4.2 g. (86%) yield of title product; m.p. 356° C. (dec.).

reactant | 5-chloroisatoic anhydride | 0.1 mole, 19.8 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | malononitrile | 0.11 mole, 7.3 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 0.11 mole, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | hydrobromic acid | 175 ml | Br | BrH
product | 2-Amino-6-chloro-4-hydroxyquinoline | NC1=NC2=CC=C(C=C2C(=C1)O)Cl | C9H7ClN2O
